US04508724
4-[(2-Ethoxyphenoxy)methyl]-4-hydroxy-1-methyl-1-phenylmethylpiperidinium Iodide
A solution of 6.5 g (0.02 mole) of 4-[(2-ethoxyphenoxy)methyl]-1-phenylmethyl-4-piperidinol in 100 ml of dry acetone was stirred at 10° C. while 4.2 g (0.03 mole) of methyl iodide was added in one portion. The solution was warmed to 30° C. and allowed to cool while stirring overnight. The solid precipitate was collected by filtration to yield 7 g (72.5%) of pale yellow crystals, m.p. 187°-189° C.

reactant | 4-[(2-ethoxyphenoxy)methyl]-1-phenylmethyl-4-piperidinol | 0.02 mole, 6.5 g | C(C)OC1=C(OCC2(CCN(CC2)CC2=CC=CC=C2)O)C=CC=C1 | C21H27NO3
reactant | methyl iodide | 0.03 mole, 4.2 g | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-[(2-Ethoxyphenoxy)methyl]-4-hydroxy-1-methyl-1-phenylmethylpiperidinium Iodide | 7 g, 72.5% | [I-].C(C)OC1=C(OCC2(CC[N+](CC2)(CC2=CC=CC=C2)C)O)C=CC=C1 | InChI=1S/C22H30NO3.HI/c1-3-25-20-11-7-8-12-21(20)26-18-22(24)13-15-23(2,16-14-22)17-19-9-5-4-6-10-19;/h4-12,24H,3,13-18H2,1-2H3;1H/q+1;/p-1
